US08912210B2
Step A: (6S)-3-Iodo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
A solution of sodium nitrite (36.1 g, 523 mmol) in water (20 mL) was added dropwise over 5 min to a solution of (6S)-3-amino-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (prepared according to the procedures described in WO2008/020902, 66.0 g, 262 mmol) and p-toluenesulfonic acid (149 g, 785 mmol) in acetonitrile (650 mL) at 23° C. After stirring for 30 min, a solution of potassium iodide (109 g, 654 mmol) in water (20 mL) was added over 5 min. The resulting mixture was stirred at 23° C. for 40 min, then diluted with water (1 L) and basified by the addition of solid NaOH (33.0 g, 824 mmol) with stirring. Iodine by-product was reduced by the addition of 10% aqueous sodium thiosulfate solution and stirring for an additional 30 min. The solids were collected by filtration, washed with water, and dried under nitrogen atmosphere to give the title compound, which was used without further purification. MS: m/z=363.9 (M+1).

reactant | sodium nitrite | 523 mmol, 36.1 g | N(=O)[O-].[Na+]
reactant | (6S)-3-amino-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | NC=1C=C2C(=NC1)C[C@@]1(C(NC3=NC=CC=C31)=O)C2 | C14H12N4O
reactant | p-toluenesulfonic acid | 785 mmol, 149 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium iodide | 654 mmol, 109 g | [I-].[K+]
reactant | NaOH | 824 mmol, 33.0 g | [OH-].[Na+]
reactant | Iodine | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 mL | O | H2O
solvent | acetonitrile | 650 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
solvent | water | 1 L | O | H2O
product | (6S)-3-Iodo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | IC=1C=C2C(=NC1)C[C@@]1(C(NC3=NC=CC=C31)=O)C2 | C14H10IN3O
